US05013863
A solution of 6.8 g of isobutyl 2-(4-chlorophenyl)-3-nitro-propyl(methyl)phosphinate in 80 ml of ethanol is added to 64 g of an 8% solution of ammonia in ethanol. To this are added 8 ml of Raney Nickel slurry and the resulting mixture is hydrogenated at 1 bar until hydrogen uptake ceases. The mixture is then filtered and the filtrate is concentrated under reduced pressure to give isobutyl 3-amino-2-(4-chlorophenyl)-propyl(methyl)phosphinate as a viscous oil, 31P N.M.R. spectrum: δ=+54.0 and +53.4 ppm (CDCl3).

reactant | isobutyl 2-(4-chlorophenyl)-3-nitro-propyl(methyl)phosphinate | 6.8 g | ClC1=CC=C(C=C1)C(CP(OCC(C)C)(=O)C)C[N+](=O)[O-] | C14H21ClNO4P
reactant | ammonia | N | H3N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 80 ml | C(C)O | C2H6O
catalyst | Raney Nickel | 8 ml | [Ni] | Ni
product | isobutyl 3-amino-2-(4-chlorophenyl)-propyl(methyl)phosphinate | NCC(CP(OCC(C)C)(=O)C)C1=CC=C(C=C1)Cl | C14H23ClNO2P
